US05494887
17. Preparation of N-Ethoxycarbonyl-N'-(2-methoxycarbonyl-3-thienyl)thiourea
Methyl 3-amino-2-thiophenecarboxylate (5.0 g (32 mmol) was dissolved in 16 mL of chloroform and to this solution 4.17 g (32 mmol) of ethoxycarbonyl isothiocyanate was added slowly with stirring at ambient temperature. A precipitate began to appear after a few minutes and after 20 min the volatile components were removed by evaporation under reduced pressure. The tan solid residue obtained was diluted with 20 mL of ether and allowed to stir for about 20 min and then 100 mL of hexane was added. The insoluble solids were recovered by filtration and dried to obtain 8.51 g of the title compound as a tan solid melting at 165°-167° C.

reactant | Methyl 3-amino-2-thiophenecarboxylate | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | ethoxycarbonyl isothiocyanate | 32 mmol, 4.17 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | hexane | 100 mL | CCCCCC | C6H14
solvent | chloroform | 16 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 20 mL | CCOCC | C4H10O
product | N-Ethoxycarbonyl-N'-(2-methoxycarbonyl-3-thienyl)thiourea | 8.51 g | C(C)OC(=O)NC(=S)NC1=C(SC=C1)C(=O)OC | C10H12N2O4S2
